************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE555
* Top Cell Name: INV_4_4
* View Name:     schematic
* Netlisted on:  Dec 14 17:24:12 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ECE555
* Cell Name:    INV_4_4
* View Name:    schematic
************************************************************************

.SUBCKT INV_4_4 IN OUT VDD VSS
*.PININFO IN:I OUT:O VDD:B VSS:B
MM0 OUT IN VSS VSS nmos_rvt w=108.00n l=20n nfin=4
MM1 OUT IN VDD VDD pmos_rvt w=108.00n l=20n nfin=4
.ENDS

